US06096724
4-bromo-2-thiophenecarboxaldehyde was converted into the 4-lithio derivative (A. L. Johnson, J. Org. Chem. 41, 1976, 1320) of its ethylene acetal and reaction of this organometallic with dimethyl disulphide followed by acid hydrolysis gave 4-methylthio-2-thiophenecarboxaldehyde (R. Noto, L. Lamartina, C. Arnone and D. Spinelli, J. Chem. Soc., Perkin Trans. 2, 1987, 689). Sodium borohydride reduced this aldehyde to the 4-methylthio alcohol (for B.4356), which in turn with one of two equivalents of MCPBA yielded the 4-methylsulphinyl and 4-methylsulphonyl alcohols (for B.4377 and B.4361 respectively). reaction of the above organometallic with naphthalene-2-sulphonyl azide (A. B. Khare and C. E. McKenna, Synthesis, 1991, 405) and sodium pyrophosphate followed by hydrolysis by the method (P. Spagnolo and P. Zamirato, J. Org. Chem., 43, 1978, 3539) for the preparation of other azidothiophene aldehydes gave 4-azido-2-thiophenecarboxaldehyde leading to the alcohol for B.4373.

reactant | 4-bromo-2-thiophenecarboxaldehyde | BrC=1C=C(SC1)C=O | C5H3BrOS
reactant | dimethyl disulphide | CSSC | C2H6S2
product | 4-methylthio-2-thiophenecarboxaldehyde | CSC=1C=C(SC1)C=O | C6H6OS2
